US06953797B2
c) [(3R)-3-[(2,5-Dichlorophenyl)thio]-3-(2-thiazolyl)propyl]carbamic acid 1,1-dimethylethyl ester.
To a solution of 2,5-dichlorothiophenol (179 mg, 1 mmol), [(3S)-3-hydroxy-3-(2-thiazolyl)propyl]carbamic acid 1,1-dimethylethyl ester (258 mg, 1 mmol) and triphenylphosphine (315 mg, 1.2 mmol) in dry tetrahydrofuran (30 ml) at 0° C. under nitrogen, was added diisopropyl azodicarboxylate (243 mg, 0.24 ml, 1.2 mmol) dropwise over 5 minutes. The mixture was stirred at room temperature for 16 h, then concentrated in vacuo to leave a crude yellow gum. Flash chromatography (silica, 15% ethyl acetate in isohexane) afforded a clear oil (85 mg, 21%).

reactant | 2,5-dichlorothiophenol | 1 mmol, 179 mg | ClC1=C(C=C(C=C1)Cl)S | C6H4Cl2S
reactant | [(3S)-3-hydroxy-3-(2-thiazolyl)propyl]carbamic acid 1,1-dimethylethyl ester | 1 mmol, 258 mg | CC(C)(C)OC(NCC[C@@H](C=1SC=CN1)O)=O | C11H18N2O3S
reactant | triphenylphosphine | 1.2 mmol, 315 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 1.2 mmol, 0.24 ml, 243 mg | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | isohexane | CCCC(C)C | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [(3R)-3-[(2,5-Dichlorophenyl)thio]-3-(2-thiazolyl)propyl]carbamic acid 1,1-dimethylethyl ester | 85 mg, 21% | CC(C)(C)OC(NCC[C@H](C=1SC=CN1)SC1=C(C=CC(=C1)Cl)Cl)=O | C17H20Cl2N2O2S2
